US06172085B2
2-[(4-Benzyl-1-piperidinyl)methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine
In an autoclave, a mixture of 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine (0.85 g), 4-benzylpiperidine (1.1 g), and triethylamine (1.3 mL) was stirred under nitrogen gas at 180° C. for 15 hours. This reaction mixture was diluted with saturated aqueous NaHCO3 and extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with water and saturated aqueous NaCl and dried over MgSO4. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethanol=10:1) and crystallized from hexane to provide 0.86 g of the title compound. Yield 78%.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 0.85 g | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | 4-benzylpiperidine | 1.1 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | triethylamine | 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-[(4-Benzyl-1-piperidinyl)methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 0.86 g, Yield 78% | C(C1=CC=CC=C1)C1CCN(CC1)CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C25H34N2O
